US07777038B2
2N Hydrochloric acid (5 ml) was added to a solution of 5-(1,3-dioxolan-2-yl)-1-phenyl-3,4-dihydro-1H-quinolin-2-one (2.60 g) in THF (30 ml), followed by stirring at room temperature overnight. After distilling off THF under reduced pressure, ethyl acetate-water was added, and the resulting mixture was washed (twice with water and once with a saturated sodium chloride solution), dried (MgSO4), and concentrated under reduced pressure. The obtained solid was recrystallized from chloroform-diethyl ether to thereby obtain 1.93 g (yield: 87%) of 1-phenyl-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde as a beige powder.

reactant | Hydrochloric acid | 2N, 5 ml | Cl | ClH
reactant | 5-(1,3-dioxolan-2-yl)-1-phenyl-3,4-dihydro-1H-quinolin-2-one | 2.60 g | O1C(OCC1)C1=C2CCC(N(C2=CC=C1)C1=CC=CC=C1)=O | C18H17NO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-phenyl-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde | 1.93 g, yield: 87% | C1(=CC=CC=C1)N1C(CCC=2C(=CC=CC12)C=O)=O | C16H13NO2
